US07056917B2
(A) Ethyl (E)-3-{8-[2-(4-isopropyl-1,3-thiazol-2-yl)ethyl]-4-oxo-4H-pyrido[1,2-a]-pyrimidin-3-yl}-2-propenoate
4-[2-(4-Isopropyl-1,3-thiazol-2-yl)ethyl]-2-aminopyridine(200 mg), diethyl 4-dimethylaminomethyleneglutaconate (265 mg) was added with bromobenzene (2 ml) and heated at 120° C. for 1 hour and at 160° C. for 4 hours with stirring. The residue was purified by silica gel column chromatography to obtain the title compound (20 mg) as white powder.

reactant | 4-[2-(4-Isopropyl-1,3-thiazol-2-yl)ethyl]-2-aminopyridine | 200 mg | C(C)(C)C=1N=C(SC1)CCC1=CC(=NC=C1)N | C13H17N3S
reactant | diethyl 4-dimethylaminomethyleneglutaconate | 265 mg | CN(C)C=C(C=CC(=O)OCC)C(=O)OCC | C12H19NO4
reactant | bromobenzene | 2 ml | BrC1=CC=CC=C1 | C6H5Br
product | Ethyl (E)-3-{8-[2-(4-isopropyl-1,3-thiazol-2-yl)ethyl]-4-oxo-4H-pyrido[1,2-a]-pyrimidin-3-yl}-2-propenoate | 20 mg | C(C)(C)C=1N=C(SC1)CCC1=CC=2N(C(C(=CN2)/C=C/C(=O)OCC)=O)C=C1 | C21H23N3O3S
